US07851473B2
N-[6-(Aminocarbonyl)pyridin-3-yl]-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
To a solution of N-(6-cyanopyridin-3-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide (100 mg, 0.255 mmol) in methanol/tetrahydrofuran (1:4) (15 ml) was added a 1N aqueous sodium hydroxide solution (2.56 ml, 2.55 mmol) at room temperature, and the mixture was stirred at 60° C. for 2 days. Water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 12.8 mg (12.2%) of the desired product as a solid.

reactant | N-(6-cyanopyridin-3-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 0.255 mmol, 100 mg | C(#N)C1=CC=C(C=N1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C19H17N7OS
reactant | sodium hydroxide | 2.55 mmol, 1N, 2.56 ml | [OH-].[Na+]
reactant | Water | O | H2O
solvent | methanol tetrahydrofuran | 15 ml | CO.O1CCCC1
product | N-[6-(Aminocarbonyl)pyridin-3-yl]-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 12.8 mg, 12.2% | NC(=O)C1=CC=C(C=N1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C19H19N7O2S
